US04028404
p-(cyclobutylcarbonyl)phenylacetic acid
p-(Cyclobutylcarbonyl)phenylacetonitrile (8.1 g) in ethanol (50 ml) was added to potassium hydroxide (6.8 g) in water (50 ml) and the mixture was heated under reflux for 5 hours and cooled. The solution was diluted with water (100 ml), washed with ether (2× 100 ml), acidified to pH 1 with hydrochloric acid and extracted with ether (3× 100 ml). The combined extracts were dried over magnesium sulphate, filtered and evaporated to give a brown oil. This was extracted with a hot mixture of light petroleum (b.p. 60°-80°) and ethyl acetate (9:1) (3× 200 ml). The solid that crystallised from the extracts on cooling was collected. It had m.p. 91°-92.5°.

reactant | p-(Cyclobutylcarbonyl)phenylacetonitrile | 8.1 g | C1(CCC1)C(=O)C1=CC=C(C=C1)CC#N | C13H13NO
reactant | potassium hydroxide | 6.8 g | [OH-].[K+]
reactant | water | 50 ml | O | H2O
reactant | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | p-(cyclobutylcarbonyl)phenylacetic acid | C1(CCC1)C(=O)C1=CC=C(C=C1)CC(=O)O | C13H14O3
